### PR TITLE
[Merged by Bors] - chore(*): replace `simp? says` with `suffices`/`have`

### PR DESCRIPTION
**Pull request by Vierkantor**
Go through occurrences of `simp? says` and, where the goal is not too long, replace them with `suffices ... := by simpa`. Similarly for hypotheses, replace `simp? at H says ...` with `replace H : ... := by simpa`.

I think this improves maintainability by declaring which shape we want to end up in, instead of the rewrites we want to use to achieve that shape.

Zulip thread: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/noisy.20simp.20says.20in.20CI

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean [hunk 1]
```diff
@@ -85,9 +85,8 @@ def reflTransSymm (p : Path x₀ x₁) : Homotopy (Path.refl x₀) (p.trans p.sy
     cases le_or_gt (x : ℝ) 2⁻¹ with
     | inl hx => simp [hx, ← extend_extends]
     | inr hx =>
-      simp? [hx.not_ge, ← extend_extends] says
-        simp only [one_div, hx.not_ge, ↓reduceIte, Set.Icc.coe_one, one_mul, ← extend_extends,
-          extend_symm, ContinuousMap.coe_mk, Function.comp_apply]
+      suffices p.extend (2 - 2 * ↑x) = p.extend (1 - (2 * ↑x - 1)) by
```
Comment (grunweg) [inline Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean]: Another option: do `have : p.extend (2 - 2 * ↑x) = p.extend (1 - (2 * ↑x - 1)) := by ring_nf` and then the simpa. What do you think?

File: Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean [hunk 2]
```diff
@@ -167,13 +167,13 @@ theorem iteratedDerivWithin_scomp_three
...
-      smul_comm (iteratedDerivWithin 2 f s x), ← derivWithin_fderivWithin,
-      ContinuousLinearMap.smulRight_apply, ContinuousLinearMap.one_apply, add_left_inj]
+  suffices derivWithin f s x ^ 3 • iteratedDerivWithin 3 g t (f x) +
+      derivWithin f s x • iteratedDerivWithin 2 f s x • iteratedDerivWithin 2 g t (f x) +
+      2 • derivWithin f s x • iteratedDerivWithin 2 f s x • iteratedDerivWithin 2 g t (f x) =
+    derivWithin f s x ^ 3 • iteratedDerivWithin 3 g t (f x) +
+      3 • derivWithin f s x • iteratedDerivWithin 2 f s x • iteratedDerivWithin 2 g t (f x) by
+    simpa [← derivWithin_fderivWithin, mul_smul, smul_comm (iteratedDerivWithin 2 f s x),
+      iteratedFDerivWithin_apply_eq_iteratedDerivWithin_mul_prod]
   abel
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean:172]: I'm on the fence about this one. The old `simp says` was horrible, but the new proof is also not great. It might be better than having `simp? says` stay...

File: Mathlib/Analysis/Convex/Function.lean [hunk 3]
```diff
@@ -780,10 +780,8 @@ theorem neg_convexOn_iff : ConvexOn 𝕜 s (-f) ↔ ConcaveOn 𝕜 s f := by
   constructor
   · rintro ⟨hconv, h⟩
     refine ⟨hconv, fun x hx y hy a b ha hb hab => ?_⟩
-    simp? [neg_apply, neg_le, add_comm] at h says
-      simp only [Pi.neg_apply, smul_neg, le_add_neg_iff_add_le, add_comm,
-        add_neg_le_iff_le_add] at h
-    exact h hx hy ha hb hab
+    have h := h hx hy ha hb hab
+    simpa [add_comm] using h
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/Function.lean]: Curious question: can you inline `h` here?

File: Mathlib/CategoryTheory/GradedObject.lean [hunk 4]
```diff
@@ -265,7 +265,8 @@ instance : (total β C).Faithful where
     ext i
     replace w := Sigma.ι (fun i : β => X i) i ≫= w
     erw [colimit.ι_map, colimit.ι_map] at w
-    simp? at * says simp only [Discrete.functor_obj_eq_as, Discrete.natTrans_app] at *
+    replace w : f i ≫ colimit.ι (Discrete.functor Y) ⟨i⟩ =
```
Comment (grunweg) [inline Mathlib/CategoryTheory/GradedObject.lean:268]: Much better and more maintainable!

File: Mathlib/Geometry/Manifold/Instances/Icc.lean [hunk 5]
```diff
@@ -68,13 +68,7 @@ lemma contMDiff_subtype_coe_Icc :
...
   -- There are two charts, and we check things separately in each of them using the
   -- explicit formulas.
-  simp? says
-    simp only [extChartAt, PartialHomeomorph.extend, PartialHomeomorph.refl_partialEquiv,
-      PartialEquiv.refl_source, PartialHomeomorph.singletonChartedSpace_chartAt_eq,
-      modelWithCornersSelf_partialEquiv, PartialEquiv.trans_refl, PartialEquiv.refl_coe,
-      Icc_chartedSpaceChartAt, PartialEquiv.coe_trans_symm, PartialHomeomorph.coe_coe_symm,
-      ModelWithCorners.toPartialEquiv_coe_symm, CompTriple.comp_eq, PartialEquiv.coe_trans,
-      ModelWithCorners.toPartialEquiv_coe, PartialHomeomorph.toFun_eq_coe, Function.comp_apply]
+  suffices ContDiffWithinAt ℝ n _ (range ↑(𝓡∂ 1)) _ by simpa
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Instances/Icc.lean:71]: I have an open PR golfing this proof totally --- but as that has a few dependencies, merging this change (which is very nice!) right now seems fine :-)

File: Mathlib/CategoryTheory/Sites/ConstantSheaf.lean [hunk 6]
```diff
@@ -192,14 +192,11 @@ lemma constantSheafAdj_counit_w {T : C} (hT : IsTerminal T) :
...
-  ext
-  simp? says simp only [comp_obj, const_obj_obj, sheafCompose_obj_val, id_obj,
-      constantSheafAdj_counit_app, comp_val,
-      sheafificationAdjunction_counit_app_val, sheafifyMap_sheafifyLift, comp_id,
-      toSheafify_sheafifyLift, NatTrans.comp_app, constComp_hom_app,
-      constantPresheafAdj_counit_app_app, Functor.comp_map, id_comp, flip_obj_obj,
-      sheafToPresheaf_obj, map_comp, sheafCompose_map_val, sheafComposeIso_hom_fac_assoc,
-      whiskerRight_app]
+  ext x
+  suffices U.map _ = U.map ((toSheafify _ _).app x) ≫
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: I'm on the fence about this one. Perhaps this is the least bad option, but the new proof also feel awful to look at. (And that is pre-existing...)

**Review by grunweg — COMMENTED** [review]
I generally like your changes a lot, and just have comments about a few of them.
maintainer delegate

**Comment by riccardobrasca** [comment]
!bench

File: Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean (hunk 2 above)
Comment (llllvvuu) [reply Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean:172]: could another option be to have the non-terminal simp, since it is only followed by `abel`? e.g.

```lean
simp [← derivWithin_fderivWithin, mul_smul, smul_comm (iteratedDerivWithin 2 f s x),
      iteratedFDerivWithin_apply_eq_iteratedDerivWithin_mul_prod]
abel
```

**Comment by kim-em** [comment]
bors d+

Michael's suggestions seem worth considering, please merge whenever you've decided what to do with them.

File: Mathlib/CategoryTheory/Sites/ConstantSheaf.lean (hunk 6 above)
Comment (llllvvuu) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: same comment here: would it make sense to just have the non-terminal `simp`, as it's followed only by another `simp`?

File: Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/Calculus/IteratedDeriv/FaaDiBruno.lean:172]: That should also work: the flexible linter considers (or rather: will consider, once my PR making this change is merged) `abel` a normalising tactic --- i.e., `simp; abel` is allowed.

File: Mathlib/CategoryTheory/Sites/ConstantSheaf.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: Can these `simp`s be combined? If so, that would be the most elegant solution.

Comment (llllvvuu) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: It broke for me when I tried to combine them, though I didn't investigate why; maybe some kind of confluence issue which is fixed by postponing the lemmas in the second simp?

Comment (Vierkantor) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: Unfortunately we can't combine the `simp`s because we need `NatTrans.comp_app` to unfold some definitions, then we need `← NatTrans.comp_app` to get some compositions to simplify.

Yet another option is to squeeze the first `simp`, which I'm not very convinced by either since it looks very arbitrary:
```lean
  simp only [constantSheafAdj_counit_app, comp_val, sheafificationAdjunction_counit_app_val,
    sheafifyMap_sheafifyLift, toSheafify_sheafifyLift, NatTrans.comp_app,
    sheafComposeIso_hom_fac_assoc]
  simp [← map_comp, ← NatTrans.comp_app]
```

File: Mathlib/Analysis/Convex/Function.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Analysis/Convex/Function.lean]: It is possible indeed!

File: Mathlib/CategoryTheory/Sites/ConstantSheaf.lean (hunk 6 above)
Comment (Vierkantor) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: @grunweg Does the new `simp; simp` look better?

Comment (grunweg) [reply Mathlib/CategoryTheory/Sites/ConstantSheaf.lean]: I'm happy with it!

**Comment by Vierkantor** [comment]
Thanks for the reviews!

bors r+
